US03966801
To a suspension of γ-keto-(2'-chloro-4-biphenylyl)butyric acid 8.64 g. (0.031 mole) in 300 ml. of 90% ethanol is added 1 ml. of 0.1M ferrous sulfate solution followed by 0.5 g. of platinum oxide catalyst. The mixture is shaken with hydrogen for 31/2 hours. The catalyst is filtered off. The filtrate is distilled under reduced pressure to yield γ-hydroxy(2'-chloro-4-biphenylyl)butyric acid.

reactant | γ-keto-(2'-chloro-4-biphenylyl)butyric acid | 8.64 g | O=CCC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C16H13ClO3
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | γ-hydroxy(2'-chloro-4-biphenylyl)butyric acid | OCCC(C(=O)O)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C16H15ClO3
